Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: EMERGENCY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
intracranial hemorrhage
 
Major Surgical or Invasive Procedure:
percutaneous tracheostomy ___
Intubation
CVL placement
a-line
 
History of Present Illness:
___ M presented initially on ___ to ___ 
complaining of abdominal pain, found to have obstruction at 
hepatic flexure, and underwent right colectomy with primary 
anastamosis on ___.  His post-op course was notable for 
bleeding (addressed with 7u PRBC), an MI with PEA arrest on 
___, and respiratory failure requiring prolonged 
intubation.  He was recovering from these complications when on 
the day of transfer the patient was found to have acute mental 
status changes, prompting CT Head revealing ___ upper parietal 
hemorrhages.  He was transferred to ___ for neurosurgical 
consultation and escalation of his critical care needs.
 
Past Medical History:
-Gout
-Depression
-ETOH abuse, most recent use more than a year ago
-HTN
-Hyperlipidemia
-Hypothyroid
-H/o UGIB
-Dementia
-Esophageal varices h/o UGI bleed
-Thrombocytopenia
-?Cirrhosis
-S/p prostectomy
-S/p R colectomy ___

 
Social History:
___
Family History:
n/a
 
Physical Exam:
On admission:
Tc 99.7, HR 69, BP 130/35, RR 28, O2sat 100%
CMV 0.3 430x20 PEEP 5
Genl: NAD, intubated; pupils 2mm, sluggish, equal; withdraws to
pain
CV: RRR
Resp: CTA-B
Abd: s/nt/nd; packed at superior aspect of incision
Extr: no c/c/e
T/L/D: ETT, OGT, foley

 
Pertinent Results:
Admission:
___ 01:23AM BLOOD WBC-10.0 RBC-3.59* Hgb-10.0* Hct-31.7* 
MCV-88 MCH-27.7 MCHC-31.4 RDW-15.2 Plt Ct-47*
___ 01:23AM BLOOD Neuts-61 Bands-3 Lymphs-16* Monos-5 Eos-0 
Baso-0 ___ Metas-8* Myelos-3* NRBC-7* Plasma-4*
___ 01:23AM BLOOD ___ PTT-34.0 ___
___ 01:23AM BLOOD Glucose-109* UreaN-80* Creat-1.1 Na-140 
K-4.2 Cl-106 HCO3-24 AnGap-14
___ 01:23AM BLOOD ALT-29 AST-65* AlkPhos-290* Amylase-151* 
TotBili-1.6*
___ 01:23AM BLOOD Lipase-204*
___ 01:23AM BLOOD Albumin-2.6* Calcium-11.7* Phos-5.8* 
Mg-2.1
___ 07:12PM BLOOD Ammonia-30
___ 03:16AM BLOOD Type-ART pO2-120* pCO2-29* pH-7.44 
calTCO2-20* Base XS--2
___ 03:16AM BLOOD Lactate-3.2*

MICROBIOLOGY:  
.
Stool Cultures negative for c.diff x 3
Urince culture from ___ w/ yeast
BAL x 2:
KLEBSIELLA PNEUMONIAE
 .                            |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
.
BCX NGTD.
.
.  
STUDIES: 
TTE:
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
basal to mid inferior and inferolateral segments. Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets are moderately 
thickened. No masses or vegetations are seen on the aortic 
valve, but cannot be fully excluded due to suboptimal image 
quality. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. No mass or vegetation is seen on the mitral valve. 
Trivial mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
.
IMPRESSION: No endocarditis or abscess seen (trans-thoracic echo 
cannot exclude). Mild focal LV systolic dysfunction consistent 
with CAD (inferior ischemia/infarction). Mild aortic 
regurgitation.
.
CXR:  No previous images. Low lung volumes may account for the 
prominence of the transverse diameter of the heart. No evidence 
of vascular congestion, pleural effusion, or acute pneumonia. 
.
CT abd/pelvis ___:
1. Marked splenomegaly, measuring 17.5 cm, with a large 
wedge-shaped 
geographic hypodense lesion at the lower pole, most likely acute 
or subacute infarct. Alternatively, this could represent 
abscess, although does not demonstrate rim enhancement. 
.  
2. Atherosclerotic disease with calcification of the splenic 
artery, with possible arterial filling defect. However, no other 
end organ infarct is evident in the torso. 
.  
3. Focal wall thickening and edema of the rectum, without 
abscess. This could reflect proctitis. 
.  
4. Moderate bilateral pleural effusions with compressive 
atelectasis. 
Prominent degree of atelectasis at the right lung base, and 
superimposed infectious consolidation is possible. 
.  
5. Post-surgical changes in the right mid abdomen after right 
colectomy, with stranding, but no focal collection to indicate 
abscess. 
.  
6. Moderate ascites tracking through the abdomen and pelvis. No 
focal 
collection. 
.  
7. Possible non-occlusive thrombus in the right internal jugular 
vein, although not completely imaged. This could be artifactual. 
This can be further assessed via ultrasound. 
.  
8. Right adrenal nodule measuring 18 x 15 mm, incompletely 
assessed on single-phase contrast study. 
.
ABD U/S:Dedicated examination of all four quadrants demonstrates 
less than 1 cm pocket of fluid in the right lower quadrant. No 
other ascitic fluid collection is noted within the peritoneal 
cavity. Due to the insufficient quantity of ascites, no 
paracentesis was attempted. 
.
EKG:  ___.
Sinus rhythm at 70, e/o inferior MI.   
.  
MR HEAD W & W/O CONTRAST ___: Prelim
1. Multiple areas of increased FLAIR signal in the bilateral
parietal and occipital lobes, gyriform and amorphous in
appearance with associated enhancement; no decreased diffusion 
or
negative susceptibility. DDx includes areas related to subacute
nfarcts/ischemic changes, cerebritis/septic emboli with
superimposed subacute hemorrhage. (given the h/o recent
coelctomy, postop MI and bleeding diathesis). Correlate with 
labs
and consider follow up with non-contrast CT Head after 12 hours
to assess the dense appearance on CT noted earlier.   
2. Associated FLAIR hyperintense signal in the adjacent sulci 
and
diffusely in the dura and subtle increased signal of the CSF in
the basal cisterns also raise the possibility of superimposed
meningeal invovlement. Given the presence of bilateral subdural
fluid collections, intracranial hypotension in appropriate
circumstances is also in the Ddx and LP needs to be considered
with caution. Correlate with history if LP was performed 
earlier.
.
3. Internal carotid artery flow voids are not clearly
identifiable on the axial T2W images and MRA Head can be
considered for better assessment of arteries and to exclude
arterial cause of the findings, although the above mentioned
parenchymal changes, if related to ischemia/infarction can be
more likely to be venous/hypoxic etiology as well given the
history and distribution.   
4. Patent superior sagittal sinus and right transverse sinus;
left not well seen- ? hypoplastic   
D/w ___ by ___ on ___ at 5pm.   
5. Fluid in the mastoid air cells and maxillary sinuses on both
sides. 
.
CT HEAD W/O CONTRAST ___:
1. Bihemispheric parieto-occipital cortical gyriform
hyperdensity, unchanged over the 16 hour interval. Given the
corresponding enhancement in these sites on the MR study, this
may represent early mineralization of cortical laminar necrosis,
related to subacute infarction. 
2. No evidence of interval hemorrhage or territorial infarction. 

3. Bilateral subdural fluid collections, overall unchanged in
size and configuration, with further resorption of blood 
products
on the right. 
4. Mastoid and paranasal sinus inflammatory disease, perhaps 
with
both chronic and acute components, though some of the layering
fluid, including in the nasopharynx and posterior nasal cavity
likely relates to intubation and supine positioning. 
 
Brief Hospital Course:
The patient is an ___ year old male with a history of alcoholic 
cirrhosis c/b varrices, HTN, HL who initally presented to 
___ on ___ with complaints of chest/abdominal 
pain, and found the have an obstruction of the colon at the 
hepatic flexure.  He underwent right hemicolectomy with 
end-to-end anastamosis on ___.  His post-operative course 
was complicated by post-operative fevers to 104, and was on and 
off of multiple
antibiotics including unasyn, vancomycin, cefepime,
moxiflocacin, metronidazole and imipenem. He had a PEA arrest on 
___ in the setting of an anterolateral MI complicated by 
cardiogenic shock (EF to 30%) requiring dobutamine for pressor 
support.  Additionally, the patients platlets weere orginally 
200,000 and are currently 11,000.  He has had 2 HIT antibodies 
that were negative at ___.  He required multple plt 
and PRBC transfusions.  The patients hospital course was 
additionally complicated by a reported an acute change in mental 
status. Head CT was concerning for b/l high parietal 
intraparenchymal hemorrhages without mass effect. He was 
transferred to ___ for further care.
.
Patient has been on the SICU service since transfer on ___.  
He has been followed by the ___, neurology, and hematology 
service in evaluation of multiple medical problems.  An MRI/CT 
were obtained, showing ribboning of pareito-cccipital cortex 
suggestive of laminar necrosis, no subarachnoid blood, bilateral 
subdural hydromas with layering suggestive of repeated bleeds at 
diff time-points, and increased T2 signal in pachymeninges 
suggestive of irritation due to subdurals or possibly 
intracranial hypotension. Distribution of abrnomal cortical 
signal and characteristics suggestive of vacular event in 
watershed distribution. It was felt that the cause could be 
multifactorial contributing factors could include MI, 
hypovolemia and anemia needing repeated trransfusions by report, 
coagulopathy due to
liver disease, cerebrovascular disease. However, the findings
were not felt to account for mental status, with encephalopathy 
due to more potential to metabolic-toxic causes.  ___ felt that 
no surgical indications were present, and quickly signed off.  
He has shown no meaningful neurologic improvement over the 
course of his hospitalization.  Exam has consitently showed in 
tact brainstem function. EEG obtaid was consistent with severe 
encephalopaty: toxic metabolic vs. anoxic brain injury.  
.
With continued ventilator dependence, the patient underwent 
traceostomy placement percutanesusly on ___.  The SICU team has 
been unable to maintain patient on PS, w/ reported tachypnea.  
CT of the chest on ___ showed moderate bilateral pleural 
effusions with compressive atelectasis, a prominent degree of 
atelectasis at the right lung base, and superimposed infectious 
consolidation is possible. A mini and normal BAL were performed, 
with cultures growing klebsiella pneumonia.  The patinet has had 
persistnet fevers throughout the hospitalization.  He was 
initially started on vancomycin on ___, which was discontinued 
on ___.  He was also started on zosyn on ___, and fluconazole 
for yeast in his urine on ___.  He was continued on meropenem, 
vancomycin and micafungin.   
.
The patinet has continued to have persistent pancytopenia.  His 
thrombocytopenia has been refractory to transfusions.  
Hematology was consulted and initially felt that the etiology of 
both impaired bone marrow function related to sepsis and acute 
illness, as well as increased consumption of platelets from 
recent hemorrhage (GI and cerebral) and possible hypersplenism 
related to liver disease.  However, bone marrow biopsy on ___ 
showed AML.  Given patients poor prognosis and functional status 
he was not a cnadidate for treatment.

A family meeting was help on ___ regarding goals of care.  
Given his hypotension that was pressor dependent, persistant 
fevers, poor mental status, and new diagnosis of AML the family 
agreed to no escalation of care.  The patient passed away at 
10:45pm on ___ with the family at the bedside. 

 
Medications on Admission:
-Thiamine 100 mg daily
-Folate 1mg daily
-MVI daily
-Lisinopril 40mg PO daily
-Omeprazole 20 mg BID
-Diltiazem ER 360mg PO daily
-Lactulose 15 ml TID
-Oxycodone prn pain
-Acetaminophen prn
 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
AML
Altered Mental status
Respiratory Failure
Hypotension
Fevers

 
Discharge Condition:
Death
 
Discharge Instructions:
n/a
 
Followup Instructions:
___